US08912208B2
D. [5-(4-Piperidin-4-yl-phenyl)-pyridin-2-yl]-(6-trifluoromethyl-pyridin-3-yl)-amine
4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (1.02 g, 2.0 mmol) was slurried in 1,4-dioxane/MeOH (5:1, 6 mL) and was treated with HCl (4M in 1,4-dioxane, 2 mL). After 18 hours, added more HCl (4M, 1,4-dioxane, 3 mL) and stirred 2 days. The solvents were removed via rotary evaporation and the crude was dried under vacuum to obtain the hydrochloride salt of the title compound as a sticky yellow solid which was used in the next step without further purification: MS (M+H)+ 399.4.

reactant | 4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 1.02 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F | C27H29F3N4O2
reactant | HCl | 4M, 2 mL | Cl | ClH
reactant | HCl | 4M, 3 mL | Cl | ClH
solvent | 1,4-dioxane MeOH | 6 mL | O1CCOCC1.CO
product | [5-(4-Piperidin-4-yl-phenyl)-pyridin-2-yl]-(6-trifluoromethyl-pyridin-3-yl)-amine | N1CCC(CC1)C1=CC=C(C=C1)C=1C=CC(=NC1)NC=1C=NC(=CC1)C(F)(F)F | C22H21F3N4
